US06013662
3.5 cm3 (39 mmol) of methyl vinyl ketone and 72 cm3 (71.5 mmol) of a normal aqueous sodium hydroxide solution were successively added to a solution, cooled to the region of 7° C., of 6.7 g (32.5 mmol) of ethyl(RS)-2-oxo-3-phenylbutyrate in 68 cm3 of ethanol and then the reaction mixture was stirred at a temperature in the region of 20° C. for two hours. The reaction mixture was cooled to 15° C. and 72 cm3 of a normal aqueous hydrochloric acid solution were added. After concentrating the ethanol, the precipitate formed was filtered off, washed with water and then dried at 50° C. 4.4 g (50%) of (1 RS,2RS)-1-hydroxy-2-methyl-5-oxo-2-phenylcyclohexane-1-carboxylic acid were thus obtained in the form of a beige powder, the characteristics of which were as follows:

reactant | methyl vinyl ketone | 39 mmol, 3.5 cm3 | C(=C)C(=O)C | C4H6O
reactant | sodium hydroxide | 71.5 mmol, 72 cm3 | [OH-].[Na+]
reactant | ethyl(RS)-2-oxo-3-phenylbutyrate | 32.5 mmol, 6.7 g | O=C(C(=O)OCC)C(C)C1=CC=CC=C1 | C12H14O3
reactant | hydrochloric acid | 72 cm3 | Cl | ClH
solvent | ethanol | 68 cm3 | C(C)O | C2H6O
product | (1 RS,2RS)-1-hydroxy-2-methyl-5-oxo-2-phenylcyclohexane-1-carboxylic acid | 4.4 g, 50% | OC1(C(CCC(C1)=O)(C1=CC=CC=C1)C)C(=O)O | C14H16O4
